US06924388B2
Synthesis of 3-(3′,5′-di-tert-butyl-6-hydroxy-2′-methoxy-3-biphenylyl)acrylic Acid:
In a manner similar to that of Example 2(h), starting with 1.23 g (3 mmol) of ethyl 3-(3′,5′-di-tert-butyl-6-hydroxy-2′-methoxy-3-biphenylyl)acrylate, 800 mg (69%) of 3-(3′,5′-di-tert-butyl-6-hydroxy-2′-methoxy-3)) -biphenylyl)acrylic acid having a melting point of 166°-7° C. were obtained.

reactant | ethyl 3-(3′,5′-di-tert-butyl-6-hydroxy-2′-methoxy-3-biphenylyl)acrylate | 3 mmol, 1.23 g | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C1=CC(=CC=C1O)C=CC(=O)OCC)OC | C26H34O4
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | 3-(3′,5′-di-tert-butyl-6-hydroxy-2′-methoxy-3-biphenylyl)acrylic Acid | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C1=CC(=CC=C1O)C=CC(=O)O)OC | C24H30O4
